US04352811
6-Chloro-3-{1-[1,3-dihydro-2-oxo-2H-benzimidazol-1-ylpropyl]-4-piperidyl}-1,2-benzisoxazole hydrobromide
A stirred mixture, under nitrogen, of 18.9 g of 3-(4-piperidyl)-6-chloro-1,2-benzisoxazole, 16.9 g of 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one, 17.0 g of anhydrous sodium carbonate and 1.33 g of pulverized potassium iodide in 1000 ml of 2-methyl-4-pentanone was heated under reflux for 6 hrs. The solvent was removed and the residue was partitioned between 500 ml of dichloromethane and 250 ml of water. The organic phase was separated, washed three times with brine, dried under anhydrous sodium sulfate and concentrated, first at aspirator pressure in a 100° bath, then with the high-vacuum pump attached to yield an oil. The oil was dissolved in 150 ml of ethanol. The solution was cooled and stirred, while 50 ml of ethanol, freshly saturated with gaseous hydrogen bromide, was added over a 5-min period. After stirring 1 hr more in the cold, the salt was collected, filtered, washed twice with ethanol and dried to afford 16.0 g (53%) of product, mp 231°-237° dec.

reactant | 3-(4-piperidyl)-6-chloro-1,2-benzisoxazole | 18.9 g | N1CCC(CC1)C1=NOC2=C1C=CC(=C2)Cl | C12H13ClN2O
reactant | 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one | 16.9 g | ClCCCN1C(NC2=C1C=CC=C2)=O | C10H11ClN2O
reactant | sodium carbonate | 17.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 1.33 g | [I-].[K+]
reactant | hydrogen bromide | Br | BrH
solvent | 2-methyl-4-pentanone | 1000 ml | CC(C)CC(C)=O | C6H12O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-Chloro-3-{1-[1,3-dihydro-2-oxo-2H-benzimidazol-1-ylpropyl]-4-piperidyl}-1,2-benzisoxazole hydrobromide | 16.0 g, 53% | Br.ClC1=CC2=C(C(=NO2)C2CCN(CC2)CCCN2C(NC3=C2C=CC=C3)=O)C=C1 | InChI=1S/C22H23ClN4O2.BrH/c23-16-6-7-17-20(14-16)29-25-21(17)15-8-12-26(13-9-15)10-3-11-27-19-5-2-1-4-18(19)24-22(27)28;/h1-2,4-7,14-15H,3,8-13H2,(H,24,28);1H
